US04612317
4-Chlorobenzyl (3R)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 8 by using (3R)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline (1.01 g), 2N KOH (2.5 ml), CS2 (0.3 ml), 4-chlorobenzyl chloride (0.81 g) and 70% ethanol (20 ml), there is prepared the title compound (1.34 g, 67%) as white powder, [α]D20 -111.8° (c=1.0, methanol). NMR (CDCl3 -DMSO-d6, δ): 4.56 (s, 2H, CSSCH2C6H4 -p-Cl), Mass m/e: 402 (M+), 244 (M+ -p-Cl-C6H4CH2SH).

reactant | (3R)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline | 1.01 g | OC[C@@H]1NCC=2NC3=CC=CC=C3C2C1 | C12H14N2O
reactant | KOH | 2N, 2.5 ml | [OH-].[K+]
reactant | CS2 | 0.3 ml | C(=S)=S | CS2
reactant | 4-chlorobenzyl chloride | 0.81 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | methanol | CO | CH4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Chlorobenzyl (3R)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 1.34 g, 67% | OC[C@@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SCC1=CC=C(C=C1)Cl | C20H19ClN2OS2
